US09332754B2
Production of 2-(4-trifluoromethylphenyl)ethyl-[2,4-dichloro-5-(2,2,2-trifluoroethylsulfinyl)phenyl]ether (present compound No. A-0767)
In 30 ml of tetrahydrofuran were dissolved 0.5 g (1.71 mmol) of 2,4-dichloro-5-(2,2,2-trifluoroethylsulfinyl)phenol, 0.33 g (1.74 mmol) of 2-(4-trifluoromethylphenyl)ethanol and 0.49 g (1.87 mmol) of triphenylphosphine. Thereto was added 0.38 g (1.87 mmol) of diisopropyl azodicarboxylate at room temperature, and the reaction mixture was stirred for 16 hours. Then, the solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (developing solvent: a mixed solvent of n-hexane:ethyl acetate=5:1), to obtain 0.41 g (yield: 52%) of an intended product.

reactant | 2,4-dichloro-5-(2,2,2-trifluoroethylsulfinyl)phenol | 1.71 mmol, 0.5 g | ClC1=C(C=C(C(=C1)Cl)S(=O)CC(F)(F)F)O | C8H5Cl2F3O2S
reactant | 2-(4-trifluoromethylphenyl)ethanol | 1.74 mmol, 0.33 g | FC(C1=CC=C(C=C1)CCO)(F)F | C9H9F3O
reactant | triphenylphosphine | 1.87 mmol, 0.49 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 1.87 mmol, 0.38 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | n-hexane | CCCCCC | C6H14
product | 2-(4-trifluoromethylphenyl)ethyl-[2,4-dichloro-5-(2,2,2-trifluoroethylsulfinyl)phenyl]ether | 0.41 g, yield: 52% | FC(C1=CC=C(C=C1)CCOC1=C(C=C(C(=C1)S(=O)CC(F)(F)F)Cl)Cl)(F)F | C17H12Cl2F6O2S
